US06245398B1
Synthesis of 2,3,6,7,10,11-hexa-{(s)-2-octyloxycarbonyloxy}triphenylene
A TFT solution of 4.86 g (15 mmol) of 2,3,6,7,10,11-hexahydroxytriphenylene and 135 mmol of (s)-2-octyl chlorocarbonate was stirred while chilled with ice. After 40 ml of pyridine was slowly and dropwise added, the liquid was heated for 50 minutes to the room temperature. The solution was poured into diluted hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The organic phase was collected, washed with diluted hydrochloric acid, water and saturated aqueous solution of sodium chloride, and then dried with anhydrous magnesium sulfate. After the solvent was distilled off, the obtained brown oily product (26.2 g) was purified through silica-gel chromatography (hexane:ethyl acetate =10:1) to prepare 13.75 g of the titled optically active triphenylene compound (5) [colorless oily product at room temperature, yield: 69%].

reactant | 2,3,6,7,10,11-hexahydroxytriphenylene | 15 mmol, 4.86 g | OC1=CC=2C3=CC(=C(C=C3C3=CC(=C(C=C3C2C=C1O)O)O)O)O | C18H12O6
reactant | (s)-2-octyl chlorocarbonate | 135 mmol | C(O[C@@H](C)CCCCCC)(=O)Cl | C9H17ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 2,3,6,7,10,11-hexa-{(s)-2-octyloxycarbonyloxy}triphenylene | yield: 69% | C[C@@H](CCCCCC)OC(=O)OC1=CC=2C3=CC(=C(C=C3C3=CC(=C(C=C3C2C=C1OC(=O)O[C@@H](C)CCCCCC)OC(=O)O[C@@H](C)CCCCCC)OC(=O)O[C@@H](C)CCCCCC)OC(=O)O[C@@H](C)CCCCCC)OC(=O)O[C@@H](C)CCCCCC | C72H108O18
